US04115575
22 g of crude 2-methoxy-3-(3'-methanesulphonyloxy-2'-hydroxy-propoxy)-pyridine, 50 ml of isopropylamine and 150 ml of isopropanol are heated for 16 hours under reflux. After working up analogously to Example 14, 3-(3'-isopropylamino-2'-hydroxypropoxy)-2-methoxy-pyridine is obtained, which melts at 50°-65° C. after recrystallisation from ether-pentane. After reaction with half the equivalent amount of fumaric acid, the neutral fumarate of melting point 146°-147° C. (recrystallised from acetone) is obtained.

reactant | 2-methoxy-3-(3'-methanesulphonyloxy-2'-hydroxy-propoxy)-pyridine | 22 g | COC1=NC=CC=C1OCC(COS(=O)(=O)C)O | C10H15NO6S
reactant | isopropylamine | 50 ml | C(C)(C)N | C3H9N
solvent | isopropanol | 150 ml | C(C)(C)O | C3H8O
product | 3-(3'-isopropylamino-2'-hydroxypropoxy)-2-methoxy-pyridine | C(C)(C)NCC(COC=1C(=NC=CC1)OC)O | C12H20N2O3
